US04652303
Diethyl malonate (10.1 g; 60 mmole) was added to a solution of sodium metal (1.4 g; 60 mmole) in anhydrous absolute ethanol (50 ml) and the mixture was heated to reflux temperature. A mixture of 1-(2,4,6-trimethylphenyl)but-1-en-3-one (11.4 g; 61 mmole) in anhydrous absolute ethanol (50 ml) was added over a period of 2 minutes and the mixture was heated under reflux for a period of 2 hours. An aqueous solution of sodium hydroxide (7.3 g; 180 mmole in 100 ml of water) was added and the mixture was heated under reflux for a further 41/2 hours. The solution was poured into water (200 ml) and the aqueous mixture was extracted twice with ethyl acetate (100 ml). The aqueous phase was acidified with concentrated hydrochloric acid and warmed gently until the evolution of carbon dioxide ceased. The aqueous mixture was extracted with ethyl acetate, dried over anhydrous sodium sulfate, and the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The product, 3-hydroxy-5-mesitylcyclohex-2-en-1-one, was obtained as a pale yellow solid (10.9 g; 77.4%), mp 165° C. Proton magnetic resonance spectrum (D6 -dimethylsulfoxide; δ in ppm); 2.04-4.1 (14H, m); 5.2 (1H, s); 6.8 (2H, s); 11.2 (1H, brs).

reactant | Diethyl malonate | 60 mmole, 10.1 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 60 mmole, 1.4 g | [Na] | Na
reactant | 1-(2,4,6-trimethylphenyl)but-1-en-3-one | 61 mmole, 11.4 g | CC1=C(C(=CC(=C1)C)C)C=CC(C)=O | C13H16O
reactant | sodium hydroxide | 180 mmole, 100 ml, 7.3 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 3-hydroxy-5-mesitylcyclohex-2-en-1-one | OC1=CC(CC(C1)C1=C(C=C(C=C1C)C)C)=O | C15H18O2
